US08138181B2
Step A: Preparation of benzyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate:
Benzyl 2,5-dihydro-1H-pyrrole-1-carboxylate (11.0 g, 54.1 mmol, commercially available from Aldrich) and 3-chlorobenzoperoxoic acid (17.3 g, 70.4 mmol) were added to 150 mL of chloroform and heated to 46° C. for 20 hours. The mixture was cooled, dichloromethane was added, and the reaction was washed with a saturated solution of NaHCO3 and Na2S2CO3. The combined organic layers were dried over MgSO4, filtered and concentrated to give 10.5 g (88% isolated yield) of the desired compound as an oil, which was used directly in the next step.

reactant | Benzyl 2,5-dihydro-1H-pyrrole-1-carboxylate | N1(CC=CC1)C(=O)OCC1=CC=CC=C1 | C12H13NO2
reactant | 3-chlorobenzoperoxoic acid | 70.4 mmol, 17.3 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | benzyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate | C12CN(CC2O1)C(=O)OCC1=CC=CC=C1 | C12H13NO3
